US08227601B2
5-benzyl-2,4-dichloro-5H-pyrrolo[3,2-d]pyrimidine
To a suspension of 5-benzyl-4-chloro-5H-pyrrolo[3,2-d]pyrimidin-2-amine (641 mg, 2.5 mmol) in 1,2-dichloroethane (35 mL) was cooled to −10° C. SbCl3 (850 mg, 3.7 mmol) was added. The reaction mixture was stirred for 5 min. t-butyl nitrite (2.1 mL, 17.4 mmol) was added dropwise and the stirred mixture was from −10° C. to room temperature for 5 h. Upon completion of the reaction, the reaction mixture was poured into ice water and washed with CH2Cl2. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The crude product was purified by silica gel column chromatography eluting with Hexanes:Ethyl acetate (9:1-1:1), and gave the product as an off-white solid (528 mg, 77%).

reactant | 5-benzyl-4-chloro-5H-pyrrolo[3,2-d]pyrimidin-2-amine | 2.5 mmol, 641 mg | C(C1=CC=CC=C1)N1C=CC=2N=C(N=C(C21)Cl)N | C13H11ClN4
reactant | t-butyl nitrite | 17.4 mmol, 2.1 mL | N(=O)OC(C)(C)C | C4H9NO2
reactant | 1,2-dichloroethane | 35 mL | ClCCCl | C2H4Cl2
product | 5-benzyl-2,4-dichloro-5H-pyrrolo[3,2-d]pyrimidine | 528 mg, 77% | C(C1=CC=CC=C1)N1C=CC=2N=C(N=C(C21)Cl)Cl | C13H9Cl2N3
